US08003685B2
To a solution of compounds 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (500 mg, 1.09 mmol) and 3,3-Dimethyl-but-1-yne (385 mg, 4.69 mmol) in DMF (0.5 mL), triethylamine (1.06 mL) and tris(dibenzylideneacetone) dipalladium (0) (70 mg, 0.08 mmol) are added and the reaction mixture is stirred under reflux conditions for 16 h under a N2 atmosphere. DMF and triethylamine are removed under reduced pressure and the residue is partitioned between water and ethyl acetate. The organic layer is separated, dried (Na2SO4), concentrated and the residue is purified by column chromatography using ethyl acetate and hexane (1:2) as eluent to obtain 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester as a solid, 330 mg (66%).

reactant | 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 1.09 mmol, 500 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)Br | C20H28BrNO4S
reactant | 3,3-Dimethyl-but-1-yne | 4.69 mmol, 385 mg | CC(C#C)(C)C | C6H10
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.06 mL | C(C)N(CC)CC | C6H15N
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.08 mmol, 70 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C#CC(C)(C)C | C26H37NO4S
